US05110955
A solution of 3.27 g (11.3 mmol) of (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl acetate in 60 ml of THF was treated dropwise with 40 ml of a freshly Prepared 0.5M sodium dithionite solution. After completion of the addition the mixture was diluted with water and extracted with chloroform. The combined extracts were washed with water and freed from solvent. The solid residue was washed with hexane and dried under oil pump vacuum, yielding 2.94 g of (E)-5-(2,5-dihydroxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate as a colourless powder; m.p. 94.5°-96° C.

reactant | (E)-3-methyl-5-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)-2-pentenyl acetate | 11.3 mmol, 3.27 g | C(C)(=O)OC\C=C(\CCC1=C(C(C(=C(C1=O)C)C)=O)C)/C | C17H22O4
reactant | sodium dithionite | 0.5M | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)-5-(2,5-dihydroxy-3,4,6-trimethylphenyl)-3-methyl-2-pentenyl acetate | 2.94 g | C(C)(=O)OC\C=C(\CCC1=C(C(=C(C(=C1C)O)C)C)O)/C | C17H24O4
